US07417064B2
a) 2-Fluoro-3,N-dimethoxy-N-methyl-benzamide
To a solution of 2-fluoro-3-methoxy-benzoic acid (5.0 g, 29.4 mmol) and PyBOP (13.7 g, 29.4 mmol) in 7:1 CH2Cl2:THF was added triethylamine (4.10 mL, 29.4 mmol) over a 10 min period. N,O-Dimethylhydroxylamine hydrochloride (2.87 g, 29.4 mL) was then added and the reaction was allowed to stir at rt for 3 h. The reaction was then partitioned between dichloromethane and water. The organic phase was separated and the aqueous phase was extracted with 2×100 mL dichloromethane. The combined organic phases were dried (MgSO4) and concentrated in vacuo. The residue was taken up in ethyl acetate and was washed successively with 1N HCl, saturated aqueous NaHCO3, and brine. The organic phase was again dried (MgSO4) and concentrated in vacuo to yield the title compound (2.30 g, 37%).

reactant | 2-fluoro-3-methoxy-benzoic acid | 29.4 mmol, 5.0 g | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
reactant | PyBOP | 29.4 mmol, 13.7 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 29.4 mmol, 4.10 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-Dimethylhydroxylamine hydrochloride | 29.4 mL, 2.87 g | Cl.CNOC
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-3,N-dimethoxy-N-methyl-benzamide | 2.30 g, 37% | FC1=C(C(=O)N(C)OC)C=CC=C1OC | C10H12FNO3
